US05658920
(1) 5-Acetylamino-8-methyl-2,3-dihydroquinoline-4-one
In a mixed solvent of 20 ml of dichloromethane and 1.3 ml of pyridine was dissolved 2.0 gm of 5-amino-8-methyl-2,3-dihydroquinoline-4-one. 1.2 ml of acetyl chloride was added to the solution under ice-cooling while stirring, followed by further stirring for 4 hours. After the addition of water, the reaction mixture was extracted with chloroform, washed with saturated brine, and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was crystallized in ether to obtain 1.24 gm of the title compound.

reactant | 5-amino-8-methyl-2,3-dihydroquinoline-4-one | 2.0 gm | NC1=C2C(CCNC2=C(C=C1)C)=O | C10H12N2O
reactant | acetyl chloride | 1.2 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
product | 5-Acetylamino-8-methyl-2,3-dihydroquinoline-4-one | 1.24 gm | C(C)(=O)NC1=C2C(CCNC2=C(C=C1)C)=O | C12H14N2O2
